US05030736
5,6-Dihydro-7-hydroxy-5,5-dimethyl-7H-thieno[3,2-b]pyran (5)
Sodium borohydride (0.97 g, 25.5 mmol) was added to a solution of 5,6-dihydro-5,5-dimethyl-7H-thieno [3,2-b]pyran-7-one (3.1 g, 17.0 mmol) in ethanol (50 mL) and stirred at rt for 2 h. An additional 0.97 g of sodium borohydride was added and the mixture was stirred 16 h. The mixture was poured into water and extracted with dichloromethane. The dichloromethane solution was washed with water (5×) and dried over magnesium sulfate. The solvent was evaporated in vacuo to give the product, 2.96 g (95%), as a brown oil: IR (neat): 3373, 2976, 1561 and 1400 cm-1 ; MS: m/z 185 (MH+ ; 1H NMR (CDCl3): δ1.34(s, 3H), 1.45(s, 3H), 1.87(m, 1H), 1.94(d, J=7.0 Hz, 1H, exchanges with D2O), 2.16(m, 1H), 4.88(m, 1H), 6.57(d, J=5.4 Hz, 1H), 7.13(d, J=5.4 Hz, 1H). This oil was used without further purification in the next step.

reactant | Sodium borohydride | 25.5 mmol, 0.97 g | [BH4-].[Na+]
reactant | 5,6-dihydro-5,5-dimethyl-7H-thieno [3,2-b]pyran-7-one | 17.0 mmol, 3.1 g | CC1(CC(C2=C(O1)C=CS2)=O)C | C9H10O2S
reactant | sodium borohydride | 0.97 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 5,6-Dihydro-7-hydroxy-5,5-dimethyl-7H-thieno[3,2-b]pyran | OC1C2=C(OC(C1)(C)C)C=CS2 | C9H12O2S
